US05739345
3-Amino-6-isopropoxy-2-methylaminopyridine
A procedure similar to that described in Example 6 was repeated, except that 2.38 9 of 6-isopropoxy-2-methylamino-3-nitropyridine (prepared as described in Preparation 100) were hydrogenated in 50 ml of methanol in the presence of 0.50 g of 10 % w/w palladium-on-charcoal. After working up the product as described in Example 6, 2.00 g of the title compound having Rf=0.62 (on silica gel thin layer chromatography using ethyl acetate as the developing solvent) were obtained.

reactant | 6-isopropoxy-2-methylamino-3-nitropyridine | C(C)(C)OC1=CC=C(C(=N1)NC)[N+](=O)[O-] | C9H13N3O3
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 3-Amino-6-isopropoxy-2-methylaminopyridine | 2.00 g | NC=1C(=NC(=CC1)OC(C)C)NC | C9H15N3O
